US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(2,4-dichlorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 2,4-dichlorophenylboronic acid (164 mg, 0.86 mmol) the subtitle compound was obtained, (148 mg, 62%). 1H NMR (DMSO) δ 8.69(s, 1H), 8.51(d, 1H), 7.93(d, 1H), 7.84(s, 1H), 7.60(m, 3H), 4.12(s, 3H). MS 415 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 2,4-dichlorophenylboronic acid | 0.86 mmol, 164 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(2,4-dichlorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=C(C=C(C=C2)Cl)Cl | C20H12Cl2N2O4
